US04572912
3 ml of concentrated hydrochloric acid and then an aqueous solution of 700 mg of sodium nitrite in 1.1 ml of water were added dropwise to a mixture of 2.1 g of 6-acetoxy-2-(4-aminophenoxymethyl)-2,5,7,8-tetramethylchroman-4-one and 26 ml of acetone, whilst cooling with ice. The mixture was stirred for 30 minutes at the same temperature. 7 g of ethyl acrylate were then added, after which cuprous oxide was added gradually, while keeping the reaction temperature at 30°-35° C. The reaction mixture was then stirred for 1 hour at room temperature. Water and benzene were added to the reaction mixture. The benzene layer was separated, washed with water and dried over anhydrous sodium sulfate. Benzene was distilled off and the residue was subjected to silica gel column chromatography, eluted with a 3:1 by volume mixture of hexane and ethyl acetate, to yield ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate.

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium nitrite | 700 mg | N(=O)[O-].[Na+]
reactant | 6-acetoxy-2-(4-aminophenoxymethyl)-2,5,7,8-tetramethylchroman-4-one | 2.1 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)N)=O)C | C22H25NO5
reactant | ethyl acrylate | 7 g | C(C=C)(=O)OCC | C5H8O2
solvent | water | 1.1 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetone | 26 ml | CC(=O)C | C3H6O
product | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C27H31ClO7
